US04983596
To a solution of allyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate (14.6 g) in dichloromethane (100 ml) was added pyridine (6.05 ml) and allyl chloroformate (10.7 ml) at -78° C. The mixture was allowed to warm to ambient temperature and stirred for one day at the same temperature. The reaction mixture was poured into ethyl acetate (100 ml) and water (50 ml), washed in turn with water (50 ml) and brine (50 ml×2), and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (500 ml) eluting with a mixture of hexane and ethyl acetate (1:1 V/V) to give allyl (4R)-4-[(2R,3S)-3-{(1R)-1-allyloxycarbonyloxyethyl}-4-oxoazetidin-2-yl]-2-diazo-3-oxopentanoate (10 g).

reactant | allyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate | 14.6 g | [N+](=[N-])=C(C(=O)OCC=C)C([C@H](C)[C@H]1NC([C@@H]1[C@@H](C)O)=O)=O | C13H17N3O5
reactant | pyridine | 6.05 ml | N1=CC=CC=C1 | C5H5N
reactant | allyl chloroformate | 10.7 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | allyl (4R)-4-[(2R,3S)-3-{(1R)-1-allyloxycarbonyloxyethyl}-4-oxoazetidin-2-yl]-2-diazo-3-oxopentanoate | 10 g | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@H](NC1=O)[C@H](C(C(C(=O)OCC=C)=[N+]=[N-])=O)C | C17H21N3O7
